US05602252
9-Ethyl-4-[(1-methylpiperidin-4-yl)methylamino]imidazo[5,1-h]pteridin-6(5H)-one
Prepared by treatment of 4,6-dichloro-5-nitropyrimidine with 1-methyl-4-(methylamino)piperidine followed by reaction with 2-ethylimidazole, reduction with palladium on carbon and cyclohexene in refluxing ethanol, and cyclization with carbonyldiimidazole.

reactant | 4,6-dichloro-5-nitropyrimidine | ClC1=NC=NC(=C1[N+](=O)[O-])Cl | C4HCl2N3O2
reactant | 1-methyl-4-(methylamino)piperidine | CN1CCC(CC1)NC | C7H16N2
reactant | 2-ethylimidazole | C(C)C=1NC=CN1 | C5H8N2
reactant | cyclohexene | C1=CCCCC1 | C6H10
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 9-Ethyl-4-[(1-methylpiperidin-4-yl)methylamino]imidazo[5,1-h]pteridin-6(5H)-one | C(C)C1=NC=C2C(NC=3C(=NC=NC3N21)NCC2CCN(CC2)C)=O | C17H23N7O
